data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
952,1033,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]#[N:20])[C:21](=[O:22])[NH:23][CH3:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:18]([C:19]#[N:20])=[N:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,5.335602250214771,-48.05179646220928
4206,4811,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:19](=[O:20])[O:21][CH3:22])[NH:10][C:11]1([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,36.60324604316952,-10.216952855280567
2994,3346,[CH3:10][N-:11][N+:12]#[N:13].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]=[N:12][N:11]1[CH3:10],water,298.15,33.68089159042536,-0.8470728517895616
5260,5965,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:28]([C:29]#[N:30])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:26]([CH3:27])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,28.55053325400288,-1.93827076865162
3458,3938,[CH3:9][CH:10]=[NH+:11][C-:12]([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[NH:11][CH:10]1[CH3:9],water,298.15,27.82440801337516,-7.876403997524317
2065,2292,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[NH:27][CH3:28].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:23]([CH3:24])([C:25](=[O:26])[NH:27][CH3:28])[N:21]([CH3:22])[CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,11.374147665941978,-53.63684973394349
4194,4798,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[CH:17][C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:17]([C:18]#[N:19])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:20]([CH3:21])=[O:22],water,298.15,7.148335571155615,-44.21904284283124
1433,1575,[CH3:16][O:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[CH:24]([C:25]#[N:26])[N:22]([CH3:23])[C:20]2([C:18]([O:17][CH3:16])=[O:19])[CH3:21],water,298.15,14.822479062412985,-28.823108604325125
3583,4089,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14]#[N:15])[O:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:16](=[O:17])[O:18][CH3:19],water,298.15,5.336247720065487,-52.09566005870018
4065,4656,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:14]([C:15]#[N:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:12]([CH3:13])[C:10]1([CH3:9])[CH3:11],water,298.15,23.952799736948272,-18.681650568673422
4750,5425,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,26.06018879686884,-4.208914779551848
3514,4006,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([CH3:16])=[O+:17][O-:18]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([CH3:16])[O:17][O:18]2,water,298.15,18.69957004921965,-25.72297352692081
